US08492378B2
4-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]-2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine
A solution of 2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-4-carbohydrazide (126 mg, 0.449 mmol), triethylamine (0.156 mL, 1.122 mmol) and carbon disulfide (0.136 mL, 2.246 mmol) in ethanol (10 mL) was stirred at 90° C. for 20 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in N,N-dimethylformamide (5 mL). To this solution were added potassium carbonate (93 mg, 0.674 mmol) and 3-fluorobenzyl chloride (0.065 mL, 0.539 mmol), and the resulting mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-0/1) and basic silica gel column chromatography (hexane/ethyl acetate=9/1-0/1) and recrystallized from hexane/ethyl acetate to give the title compound (44 mg, yield 23%) as pale-yellow crystals.

reactant | 2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-4-carbohydrazide | 0.449 mmol, 126 mg | C1(=CC=CC=C1)CCC1=CC2=C(N=CC=C2C(=O)NN)N1 | C16H16N4O
reactant | triethylamine | 1.122 mmol, 0.156 mL | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 2.246 mmol, 0.136 mL | C(=S)=S | CS2
reactant | potassium carbonate | 0.674 mmol, 93 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluorobenzyl chloride | 0.539 mmol, 0.065 mL | FC=1C=C(CCl)C=CC1 | C7H6ClF
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]-2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine | 44 mg, yield 23% | FC=1C=C(CSC2=NN=C(O2)C2=C3C(=NC=C2)NC(=C3)CCC3=CC=CC=C3)C=CC1 | C24H19FN4OS
